US05780241
4-(3-Azidopropoxy)-2,6-dihydroxymethylpyridine
To a stirred solution of diethyl-4-(3-azidopropoxy)-2,6-pyridinedicarboxylate (4.2 mmol) in dichloromethane (10 mL) and absolute ethanol (15 mL), was added in portions, NaBH4 (4.2 mmol) at 25° C. Powdered CaCl2 (4.2 mmol) was added cautiously in small portions and the evolution of hydrogen was allowed to cease before each further addition. The reaction mixture was stirred for 2 hours. Water (100 mL) was added and the reaction mixture was extracted several times with ethyl acetate. The ethyl acetate layers were combined, dried (MgSO4) and concentrated in vacuo. The resultant residue was purified by silica gel flash column chromatography to give the title compound.

reactant | diethyl-4-(3-azidopropoxy)-2,6-pyridinedicarboxylate | 4.2 mmol | C(C)OC(=O)C1=NC(=CC(=C1)OCCCN=[N+]=[N-])C(=O)OCC | C14H18N4O5
reactant | NaBH4 | 4.2 mmol | [BH4-].[Na+]
reactant | CaCl2 | 4.2 mmol | [Cl-].[Cl-].[Ca+2]
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | Water | 100 mL | O | H2O
product | 4-(3-Azidopropoxy)-2,6-dihydroxymethylpyridine | N(=[N+]=[N-])CCCOC1=CC(=NC(=C1)CO)CO | C10H14N4O3
